US08623902B2
At a temperature of 0° C., a solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride (0.103 g; 0.53 mmol) in dichloromethane (4 ml) was added dropwise to a stirred solution of 3,5-dichloro-4-[(S)-1-pyrrolidin-2-ylmethoxy)-benzaldehyde O-methyl-oxime (0.16 g; 0.53 mmol), which was prepared in analogy as described for example P12, and triethylamine (146 μl; 1.05 mmol) in dichloromethane (7 ml). The ice bath was removed and reaction mixture was allowed stirring for 4 hours. The reaction mixture was washed with 2M HCl (10 ml), 1M NaOH (10 ml) and saturated NaCl (30 ml) and then dried over Na2SO4. After removal of the solvent, the residue (0.20 g in the form of an oil) was purified by flash chromatography over silica gel (eluent:cyclohexane/ethyl acetate 1:1). 0.14 g (57% of theory) of 3,5-dichloro-4-[(S)-1-(3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl)-pyrrolidin-2-ylmethoxy]-benzaldehyde O-methyl-oxime was obtained in form of an oil. 1H NMR (400 MHz, CDCl3): δ 1.95 (m, 1H), 2.20 (m, 2H), 2.45 (m, 1H), 3.68 (m, 2H), 3.96 (s, 3H, NCH3), 3.98 (s, 3H, OCH3), 4.22-4.24 (m, 1H), 4.38 (m, 1H), 4.61 (m, 1H), 7.01-7.28 (t, 1H, CHF2), 7.50 (s, 2H, Ar—H), 7.61 (s, 1H), 7.89 (s, 1H). MS [M+H]+ 361/363/365.

reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | 0.53 mmol, 0.103 g | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
reactant | 3,5-dichloro-4-[(S)-1-pyrrolidin-2-ylmethoxy)-benzaldehyde O-methyl-oxime | 0.53 mmol, 0.16 g | CON=CC1=CC(=C(C(=C1)Cl)OC[C@H]1NCCC1)Cl | C13H16Cl2N2O2
reactant | triethylamine | 1.05 mmol, 146 μl | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | 3,5-dichloro-4-[(S)-1-(3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl)-pyrrolidin-2-ylmethoxy]-benzaldehyde O-methyl-oxime | 0.14 g, 57% | CON=CC1=CC(=C(C(=C1)Cl)OC[C@H]1N(CCC1)C(=O)C=1C(=NN(C1)C)C(F)F)Cl | C19H20Cl2F2N4O3
